US05814631
Synthesis of 7-chloro-3-(4-methoxycarbonylbenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 19)
1.12 g (4.65 mmol) of 4-methoxycarbonylbenzenesulfonylisocyanate and 798 mg (4.65 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 1.08 g of the above-identified compound (yield 58.9%). Properties: colorless crystal, Melting point: >230° C., PMR (δppm, DMSO-d6): 3.91 (3H,s), 7.13 (1H,s), 7.23 (1H,d), 7.86 (1H,d), 8.20 (2H,d), 8.29 (2H,d), 11.80 (1H,br).

reactant | 4-methoxycarbonylbenzenesulfonylisocyanate | 4.65 mmol, 1.12 g | COC(=O)C1=CC=C(C=C1)S(=O)(=O)N=C=O | C9H7NO5S
reactant | 2-amino-4-chlorobenzoic acid | 4.65 mmol, 798 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-(4-methoxycarbonylbenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 1.08 g, yield 58.9% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=CC=C(C=C1)C(=O)OC)=O | C16H11ClN2O6S
